US05905076
A THF solution of 1 N BU4NF (0.84 ml, 0.84 mmole) containing AcOH (35 mg, 0.56 mmole) was added to a solution of (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-{2-(tert-butyldimethylsilyl)oxy-1-phenylethoxy}-azetidin-2-one (430 mg, 0.70 mmole) in THF (5 ml) at 0-5° C. The mixture was stirred at room temperature for 3 hrs, then poured into a silica gel column. The column was eluented with methanol-ethyl acetate (5:95) and 260 mg of (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-(2-hydroxy-1-phenylethoxy)-azetidin-2-one was obtained (74% yield).

reactant | AcOH | 0.56 mmole, 35 mg | CC(=O)O | C2H4O2
reactant | (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-{2-(tert-butyldimethylsilyl)oxy-1-phenylethoxy}-azetidin-2-one | 0.70 mmole, 430 mg | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@@H]1OC(CO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)=O | C35H45N3O5Si
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-(2-hydroxy-1-phenylethoxy)-azetidin-2-one | 260 mg, 74% yield | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@@H]1OC(CO)C1=CC=CC=C1)=O | C29H31N3O5
